US04103084
2-t-Butoxycarbonylmethoxyimino-2-(thien-3-yl)acetic acid (syn isomer)
Thien-3-ylglyoxylic acid and t-butoxycarbonylmethoxyamine were reacted as described in Preparation 1 to give the title compound, m.p. 102.6°-104.4° (from carbon tetrachloride); λmax (pH6 phosphate buffer) 258 nm (ε 13,700).

reactant | Thien-3-ylglyoxylic acid | S1C=C(C=C1)C(C(=O)O)=O | C6H4O3S
reactant | t-butoxycarbonylmethoxyamine | C(C)(C)(C)OC(=O)CON | C6H13NO3
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-t-Butoxycarbonylmethoxyimino-2-(thien-3-yl)acetic acid | C(C)(C)(C)OC(=O)CON=C(C(=O)O)C1=CSC=C1 | C12H15NO5S
